US07713994B2
4-[(4-Butyl-3-hydroxy-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound is prepared from 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (85 mg, 0.26 mmol) and 5-Aminomethyl-2-butyl-phenol (54 mg, 0.3 mmol) in 65% yield: MS (ESI): 475.2 (M−1)−1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.26 mmol, 85 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
reactant | 5-Aminomethyl-2-butyl-phenol | 0.3 mmol, 54 mg | NCC=1C=CC(=C(C1)O)CCCC | C11H17NO
product | 4-[(4-Butyl-3-hydroxy-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione | 65% yield | C(CCC)C1=C(C=C(CNC=C2C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O | C21H21IN2O3
